US06384030B1
A mixture of (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-(1-methyl-2-oxopropyl)-3H-1,2,4-triazol-3-one (0.018 mol), (S)-α-methyl-1-naphthalenemethanamine (0.0187 mol) and sodium tris(acetato-O)hydroborate (I-) (0.028 mol) in CH2Cl2 (150 ml) was stirred at room temperature overnight. A diluted NH4OH solution was added. The mixture was stirred for 1 hour. The precipitate was filtered off, washed with H2O and with CH2Cl2 (20 ml) and dried. The residue was crystallized from CH3CN. The precipitate was filtered off and dried, yielding 3.3 g (32%) of [R-(R*,S*)(S*)]-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-[1-metyl-2-[[1-(1-naphthalenyl)ethyl]amino]propyl]-3H-1,2,4-triazol-3-one (interm. 108).

reactant | (±)-2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-(1-methyl-2-oxopropyl)-3H-1,2,4-triazol-3-one | 0.018 mol | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)=O)C)=O | C22H25N5O3
reactant | (S)-α-methyl-1-naphthalenemethanamine | 0.0187 mol | C[C@H](N)C1=CC=CC2=CC=CC=C12 | C12H13N
reactant | sodium | [Na] | Na
reactant | NH4OH | [NH4+].[OH-]
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 2,4-dihydro-4-[4-[4-(4-hydroxyphenyl)-1-piperazinyl]phenyl]-2-[1-metyl-2-[[1-(1-naphthalenyl)ethyl]amino]propyl]-3H-1,2,4-triazol-3-one | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(N=C1)C(C(C)NC(C)C1=CC=CC2=CC=CC=C12)C)=O | C34H38N6O2
